US05780498
At 0° C., N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-alanine (445 mg) is stirred in N,N-dimethylformamide (24 ml) together with (L)-tryptophane methyl ester hydrochloride (400 mg), hydroxybenztriazol (330 mg), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.32 ml) for 1 hour and at ambient temperature over night. After extraction with ethyl acetate and 10% aqueous citric acid the organic phase is washed with 4% aqueous sodium bicarbonate, and with brine, dried and evaporated. Flash chromatography on silica gel (hexane/ethyl acetate 2:1) gives the product as a mixture of diastereoisomers. Separation by medium pressure chromatography on a silica gel column, using ether/dichloromethane (1:1) as solvent gives both [N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-(D)-alanyl]-(L)-tryptophane methyl ester. NMR (CDCl3, 400 MHz) δ [ppm] 8.60 (s), 8.30 (m), 7.70 (m), 7.55 (m), 7.30 (m), 7.10 (m), 6.90 (m), 6.50 (m), 5.85 (s), 5,43 (m), 4.90 (m), 4.33 (m), 3.75 (s), 3.70 (s), 3.35 (m), 3.15 (m), 2.85 (s), 2.57 (s), 2.35 (s), 2.20 (s), 1.93 (s), 1.85 (s).

reactant | N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-alanine | 445 mg | CC=1C=C(C(=O)N([C@@H](CC2=CC=C(C=C2)C2=CC=NO2)C(=O)O)C)C=C(C1)C | C22H22N2O4
reactant | (L)-tryptophane methyl ester hydrochloride | 400 mg | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | hydroxybenztriazol | 330 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.32 ml | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
product | [N-(3,5-dimethylbenzoyl)-N-methyl-3-[4-(5-isoxazolyl)-phenyl]-(D)-alanyl]-(L)-tryptophane methyl ester | COC([C@@H](NC([C@H](N(C)C(C1=CC(=CC(=C1)C)C)=O)CC1=CC=C(C=C1)C1=CC=NO1)=O)CC1=CNC2=CC=CC=C12)=O | C34H34N4O5
